US04539152
N,N'-Carbonyldiimidazole (540 mg) was added to a solution of [(2R,3R)-3-{1-methyl-1-(4-nitrobenzyloxycarbonyloxy)-ethyl}-4-oxoazetidin-2-yl]acetic acid (1.06 g) in tetrahydrofuran (50 ml) at ambient temperature. After stirring for 7 hours at the same temperature, magnesium salt of mono-p-nitrobenzyl malonate (1.45 g) was added thereto, and the resultant mixture was stirred overnight at ambient temperature. The solvent was distilled off in vacuo. The residue was dissolved in ethyl acetate (100 ml) and filtered. The filtrate was washed in turn with 0.1N hydrochloric acid, water, saturated aqueous sodium chloride, aqueous sodium bicarbonate, water, saturated aqueous sodium chloride, 5% aqueous citric acid, water and saturated aqueous sodium chloride. After drying over magnesium sulfate, the solution was evaporated. The residue was chromatographed on silica gel (30 g) eluting with a mixture of methylene chloride and ethyl acetate (50:1 to 2:1) to give formy substance, which was crystallized from a mixture of chloroform and diisopropyl ether, washed with diisopropyl ether and then dried in vacuo to give 4-nitrobenzyl 4-[(2R,3R)-3-{1-methyl-1-(4-nitrobenzyloxycarbonyloxy)ethyl}-4-oxoazetidin-2-yl]-3-oxobutanoate (1.31 g), mp 123°-125° C. (dec.).

reactant | [(2R,3R)-3-{1-methyl-1-(4-nitrobenzyloxycarbonyloxy)-ethyl}-4-oxoazetidin-2-yl]acetic acid | 1.06 g | CC(C)(OC(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])[C@H]1[C@H](NC1=O)CC(=O)O | C16H18N2O8
reactant | mono-p-nitrobenzyl malonate | 1.45 g | C(CC(=O)[O-])(=O)OCC1=CC=C(C=C1)[N+](=O)[O-]
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | 4-nitrobenzyl 4-[(2R,3R)-3-{1-methyl-1-(4-nitrobenzyloxycarbonyloxy)ethyl}-4-oxoazetidin-2-yl]-3-oxobutanoate | 1.31 g | CC(C)(OC(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])[C@H]1[C@H](NC1=O)CC(CC(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])=O | C25H25N3O11
